US07459448B2
2-[4-(3-Amino-prop-1-ynyl)-phenylamino]-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (HCl salt) (I-46)
In a manner similar to that described for Method O, 9-chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-36) and tert-butyl prop-2-ynylcarbamate were converted to {3-[4-(9-chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester, which was deprotected according to Method K to give I-46 (29%): HRMS Calcd. for C21H16ClN5O: 390.1121, Found 390.1120.

reactant | 9-chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)I)=O)C1 | C18H12ClIN4O
reactant | tert-butyl prop-2-ynylcarbamate | C(C#C)NC(OC(C)(C)C)=O | C8H13NO2
reactant | {3-[4-(9-chloro-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepin-2-ylamino)-phenyl]-prop-2-ynyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC1=CC=C(C=C1)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)Cl)N1)=O | C26H24ClN5O3
product | 2-[4-(3-Amino-prop-1-ynyl)-phenylamino]-9-chloro-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NCC#CC1=CC=C(C=C1)NC=1N=CC2=C(C3=C(NC(C2)=O)C=C(C=C3)Cl)N1 | C21H16ClN5O
